US07858640B2
[8-chloro-3-(4-chlorobenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid
A solution of [8-chloro-3-(4-chlorobenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.10 g), methanol (6.0 mL), water (0.6 mL) and saturated aqueous lithium hydroxide solution (0.3 mL) was stirred at room temperature for 17 hours. The methanol was removed under reduced pressure and the pH of the residue adjusted to 4 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration and washed with water. Purification of the solid by preparative reverse-phase HPLC using a gradient over 37 minutes of acetonitrile in water (20% to 95% of organic modifier) gave title compound as a cream solid, 0.020 g.

reactant | [8-chloro-3-(4-chlorobenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.10 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)OC(F)F)=O | C21H17Cl2F2NO4
reactant | methanol | 6.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.3 mL | [OH-].[Li+]
solvent | water | 0.6 mL | O | H2O
product | [8-chloro-3-(4-chlorobenzyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)OC(F)F)OCC(=O)O | C20H15Cl2F2NO4
